US05977074
Step D: N-Benzyloxycarbonyl-L-valyl-O-benzyl-L-tyrosinal
To a solution of N-benzyloxycarbonyl-L-valyl-O-benzyl-L-tyrosine, N,O-dimethylhydroxamate (8.90 g, 16.2 mmol) in anhydrous diethyl ether (150 ml) and anhydrous THF (20 ml) at 0° C. is added lithium aluminum hydride (0.67 g, 17.7 mmol). The mixture is stirred at 0° C. for 1 hour. A solution of 1M potassium hydrogenosulphate (25 ml) is then added with precaution. The organic layer is separated and the aqueous phase is extracted twice with ethyl acetate (2×100 ml). The combined organic layers are then washed with a 3N solution of hydrochloric acid (30 ml), water (30 ml) and brine (30 ml), and dried over anhydrous magnesium sulphate. Filtration and evaporation of the solvent in vacuo affords a white solid which is recrystallized in ethylacetate/pentane to give the title compound (5.40 g, 68% yield).

reactant | N-benzyloxycarbonyl-L-valyl-O-benzyl-L-tyrosine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C29H32N2O6
reactant | lithium aluminum hydride | 17.7 mmol, 0.67 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium | 1M, 25 ml | [K] | K
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-Benzyloxycarbonyl-L-valyl-O-benzyl-L-tyrosinal | 5.40 g, 68% yield | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C=O | C29H32N2O5
